US05348962
A slurry of platinum on sulphide carbon (0.1 g) in ethyl acetate was added under nitrogen to a solution of the methyl 2-amino-4-chloro-6-vinylbenzoate (0.362 g) in ethyl acetate. This mixture was hydrogenated at 30 psi for 2 h. The catalyst was filtered off and the solvent removed in vacuo to leave the desired methyl 2-amino-4-chloro-6-ethylbenzoate as a yellow oil (0.34 g). δH (250 MHz, DMSO-d6) 1.08 (3H, t, J 7.5 Hz, CH2CH3), 2.60 (2H, q, J 7.5 Hz, CH2CH3), 3.81 (3H, s, CO2CH3), 5.85 (2H, s, NH2), 6.46 (1H, d, J 2.5 Hz, H-3 or H-5), 6.65 (1H, d, J 2.5 Hz, H-3 or H-5).

reactant | methyl 2-amino-4-chloro-6-vinylbenzoate | 0.362 g | NC1=C(C(=O)OC)C(=CC(=C1)Cl)C=C | C10H10ClNO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | platinum | [Pt] | Pt
product | methyl 2-amino-4-chloro-6-ethylbenzoate | 0.34 g | NC1=C(C(=O)OC)C(=CC(=C1)Cl)CC | C10H12ClNO2
